Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
simvastatin / amlodipine
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy ___

 
History of Present Illness:
___ w/ CAD/CABG, AF (Coumadin), BPH, HLD, HTN, hemorrhoids p/w
BRBPR.

He has not checked his INR for several weeks. He reports 
bleeding
for 3 days with a pad saturated in blood after he wakes up from
sleeping. It started during a BM a few days ago and is painless.
He denies any CP, SOB, LH, fatigue, N/V/abd pain.

In the ED, initial vitals were: T 99.4, HR 69, BP 144/105, RR 
16,
97% RA
- Exam notable for: No physical exam noted
- Labs notable for: wbc 7.9, hgb 13.7, INR 2.5, Cr 1.6 
(baseline)
- Imaging was notable for: None
- Patient was given: Nothing
- GI was consulted and recommended admission for observation

Upon arrival to the floor, patient reports no abdominal pain, no
N/V/diarrhea. Was in ___ ___ and ___ recently. 
No
known people with bloody diarrhea. Last colonoscopy was 11 
months
ago and had diverticula.

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative 
 
Past Medical History:
ATRIAL FIBRILLATION 
CAD/CABG ___
ELEVATED CREATININE 
GOUT 
HYPERTENSION 
OBESITY 
OCC. BACK PAIN  
COLONIC POLYPS 
HERNIA REPAIR 
 
Social History:
___
Family History:
Mother CORONARY ARTERY DISEASE 
Father OLD AGE
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITAL SIGNS: T 98.8 BP 171/96 HR 59 RR 18 96% room air
GENERAL: NAD, lying comfortably
HEENT: PERRL, MMM, EOMI
NECK: No JVP elevation, No LAD
CARDIAC: Irregular rhythm, normal rate
LUNGS: CTAB, no wheeze, rales, rhonchi
ABDOMEN: NTTP, ND, NBS
GI: Has bright red blood on pad soaking underwear. Has an
external hemorrhoid that is not actively bleeding at ~7:00. 
Stool
in vault w/o melena. Normal rectal tone and no pain w/ DRE.
EXTREMITIES: No lower extremity edema, warm distal extremities,
2+ ___ pulses.
NEUROLOGIC: A+Ox3 and able to say months backwards. CN II-XII
intact and normal sensation in all 4 distal extremities. ___
strength b/l wrists, biceps, hips, ankles
SKIN: No significant rashes

DISCHARGE PHYSICAL EXAM:
=======================
VITALS: T 98.8 BP 162/106 HR 81 RR 23 96% room air
GENERAL: NAD, walking around room
HEENT: PERRL, MMM, EOMI
NECK: No JVP elevation, No LAD
CARDIAC: Irregular rhythm, normal rate
LUNGS: CTAB, no wheeze, rales, rhonchi
ABDOMEN: NTTP, ND, NBS
EXTREMITIES: No lower extremity edema, warm distal extremities,
2+ ___ pulses.
NEUROLOGIC: A+Ox3 and able to say months backwards. CN II-XII
intact and normal sensation in all 4 distal extremities. ___
strength b/l wrists, biceps, hips, ankles
SKIN: No significant rashes

 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:00AM BLOOD WBC-7.9 RBC-4.48* Hgb-13.7 Hct-42.1 
MCV-94 MCH-30.6 MCHC-32.5 RDW-13.3 RDWSD-45.6 Plt ___
___ 11:00AM BLOOD Neuts-75.5* Lymphs-14.6* Monos-6.9 
Eos-1.8 Baso-0.6 Im ___ AbsNeut-5.99 AbsLymp-1.16* 
AbsMono-0.55 AbsEos-0.14 AbsBaso-0.05
___ 11:00AM BLOOD ___ PTT-42.9* ___
___ 11:00AM BLOOD Glucose-101* UreaN-32* Creat-1.6* Na-144 
K-4.3 Cl-104 HCO3-27 AnGap-13

DISCHARGE LABS:
==============
___ 04:35AM BLOOD WBC-8.0 RBC-4.25* Hgb-13.1* Hct-40.1 
MCV-94 MCH-30.8 MCHC-32.7 RDW-13.3 RDWSD-46.3 Plt ___
___ 04:35AM BLOOD ___ PTT-41.3* ___
___ 04:35AM BLOOD Glucose-81 UreaN-28* Creat-1.5* Na-143 
K-4.3 Cl-103 HCO3-29 AnGap-___ w/ CAD/CABG, AF (Coumadin), BPH, HLD, HTN, p/w BRBPR from 
internal hemorrhoids.

#Bright red blood per rectum:
#Internal hemorrhoids:
3 days of BRBPR with h/o hemorrhoids w/o abdominal pain. INR 2.5 
on admission. Hgb stable. flex sig on ___ w/ internal 
hemorrhoids. Will f/u w/ CRS upon discharge and hold warfarin 
for 5 days.

#Atrial fibrillation:
Normal rate on admission. Home warfarin is 5 mg qd except for 
7.5
mg on ___. Continued home rate-control medications.

#Coronary artery disease:
#History of coronary artery bypass grafts:
Continued home aspirin 81 mg qd, home atorvastatin 20 mg qd, 
held home enalapril Maleate 20 mg PO BID (NF), but restarted 
upon discharge

#Chronic kidney kidney:
At baseline Cr at 1.6.

#Benign prostatic hypertrophy:
Home avodart NF, continued home tamsulosin 0.4 mg qhs

#Vitamins: 
Continued Vitamin D 400 UNIT PO DAILY 

TRANSITIONAL ISSUES:
==================== 
-Follow-up: PCP, colorectal surgery
-Warfarin: For his persistent hemorrhiodal bleeding, he will 
take a lower dose of warfarin (see above in patient 
instructions) prior to his hemorrhoid banding procedure on ___. 
After his procedure he can restart his warfarin pending 
colorectal surgery recommendations.
-Labs: hgb was 13.1, Cr 1.5 (baseline), and IN 2.3 upon 
discharge. Please recheck his hgb at his next follow-up 
appointment.
-CODE: Full (presumed) 
-CONTACT: ___ home ___ cell ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Avodart (dutasteride) 0.5 mg oral DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. Viagra (sildenafil) 100 mg oral DAILY:PRN 
5. Atenolol 25 mg PO DAILY 
6. Atorvastatin 20 mg PO QPM 
7. Vitamin D 400 UNIT PO DAILY 
8. Diltiazem Extended-Release 180 mg PO DAILY 
9. Enalapril Maleate 20 mg PO BID 
10. Warfarin 5 mg PO 6X/WEEK (___) 
11. Warfarin 7.5 mg PO 1X/WEEK (FR) 

 
Discharge Medications:
1.  Warfarin 2.5 mg PO DAILY16  
2.  Aspirin 81 mg PO DAILY  
3.  Atenolol 25 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Avodart (dutasteride) 0.5 mg oral DAILY  
6.  Diltiazem Extended-Release 180 mg PO DAILY  
7.  Enalapril Maleate 20 mg PO BID  
8.  Tamsulosin 0.4 mg PO QHS  
9.  Viagra (sildenafil) 100 mg oral DAILY:PRN as needed  
10.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==================
Hemorrhoidal bleeding

Secondary diagnosis:
====================
Atrial fibrillation
Hypertension
Hyperlipidemia
Benign prostatic hypertrophy
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for bleeding from your hemorrhoids. You were 
seen by our gastroenterologists and colorectal surgery who 
recommended that you follow-up with them as an outpatient. Prior 
to your follow-up with them, please adjust your warfarin dose as 
stated below:

___ mg
___ mg
___ mg
___ mg
___ - Please stop taking your warfarin until your 
colorectal surgeon says it is alright to restart.

___ - Follow-up with your colorectal surgeon and 
primary care doctor.

It was a pleasure caring for you,

-___ medical care team
 
Followup Instructions:
___